US05266554
A mixture of 50.0 g of 2-chloro-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid isopropyl ester and 25.4 g of copper(I) cyanide in 225 ml of dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone is heated for 2.5 hours at 195° C. under nitrogen. The mixture is then cooled to room temperature and 2 l of ethyl acetate are added. The mixture is then poured onto 1.31 of water and 300 ml of 32% hydrochloric acid, and the whole is stirred for 45 minutes at room temperature until two distinct layers have formed. The organic phase is removed, washed twice with 200 ml of water each time and dried over anhydrous sodium sulfate. Concentration by evaporation of the organic solution yields crystalline 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid isopropyl ester, m.p. 188°-200° C.

reactant | 2-chloro-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid isopropyl ester | 50.0 g | C(C)(C)OC(C1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C)C)=O)F)Cl)=O | C16H16ClFN2O4
reactant | copper(I) cyanide | 25.4 g | [Cu]C#N
reactant | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 225 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | water | O | H2O
product | 2-cyano-5-[3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid isopropyl ester | C(C)(C)OC(C1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C)C)=O)F)C#N)=O | C17H16FN3O4
